US05834501
2-Hydroxymethyl-1-methylimidazo[4.5-c]pyridine
A solution of 3.00 g of 2-t-butyldimethylsilyloxy-methyl-1-methylimidazo[4,5-c]pyridine (prepared as described in Preparation 72) in 60 ml of a 1:1:1 by volume mixture of tetrahydrofuran, acetic acid and water was stirred at room temperature for 1 hour and then at 60° C. for 5 hours. At the end of this time, the reaction mixture was freed from the solvent by distillation. The resulting residue was mixed with an aqueous solution of sodium hydrogencarbonate and then concentrated by evaporation under reduced pressure. The concentrate was purified by column chromatography through silica gel, using a 10:1 by volume mixture of ethyl acetate and methanol as the eluent, to give 1.97 g of the title compound, melting at 285°-290° C.

reactant | 2-t-butyldimethylsilyloxy-methyl-1-methylimidazo[4,5-c]pyridine | 3.00 g | [Si](C)(C)(C(C)(C)C)OC=1N(C2=C(C(=NC=C2)C)N1)C | C14H23N3OSi
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-Hydroxymethyl-1-methylimidazo[4.5-c]pyridine | 1.97 g | OCC=1N(C2=C(C=NC=C2)N1)C | C8H9N3O
